US04536508
1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanamine
A solution of methyl 1-methyl-5-[[1-oxo-4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-carboxylate (1.94 g) in 0.88 ammonia was stirred at room temperature for 18 h. The mixture was evaporated to yield a yellow foam, which was triturated with ether to give a yellow solid (1.56 g) which was used without further purification. A portion of this solid (1.20 g) was suspended in tetrahydrofuran (50 ml) and treated at room temperature with lithium aluminium hydride (1.0 g). The mixture was heated under reflux for 24 h, cooled and quenched with water. The resulting mixture was extracted with ethyl acetate, and the combined organic extracts were evaporated to yield an oil (0.90 g) which was chromatographed to give the title compound as an oil (210 mg).

reactant | methyl 1-methyl-5-[[1-oxo-4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-carboxylate | 1.94 g | CN1N=C(N=C1NC(CCCOC1=CC(=CC=C1)CN1CCCCC1)=O)C(=O)OC | C21H29N5O4
reactant | ammonia | N | H3N
product | 1-methyl-5-[[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino]-1H-1,2,4-triazole-3-methanamine | 1.56 g | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)CN | C20H32N6O
